US05502028
Methyl 2-chloro-2-(4,6-dimethoxypyrimidin-2-yl)-2-phenylacetate
Methyl 2-(4,6-dimethoxypyrimidin-2-yl)-2-phenylacetate (2.0 g) and N-chlorosuccimimide (2.0 g) were stirred at reflux in carbon tetrachloride (25 ml) under a bright light for 18 hours. The reaction mixture was filtered and evaporated to dryness, and the residue was purified by column chromatography on silica eluting with ether:hexane (1:1), yielding the desired product (2.16 g) as a pale yellow oil.

reactant | Methyl 2-(4,6-dimethoxypyrimidin-2-yl)-2-phenylacetate | 2.0 g | COC1=NC(=NC(=C1)OC)C(C(=O)OC)C1=CC=CC=C1 | C15H16N2O4
reactant | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-chloro-2-(4,6-dimethoxypyrimidin-2-yl)-2-phenylacetate | 2.16 g | ClC(C(=O)OC)(C1=CC=CC=C1)C1=NC(=CC(=N1)OC)OC | C15H15ClN2O4
